### PR TITLE
A strengthening of Freudenthal's theorem for H-spaces

### PR DESCRIPTION
**Pull request by jarlg**
We prove Proposition 2.19 of [BCFR](https://arxiv.org/abs/2301.02636v2) and use it to strengthen Freudenthal's theorem for H-spaces. To do this, we define the Hopf construction (but don't prove much about it) and add some minor things that we needed.

### CODE REVIEW

File: theories/Pointed/Loops.v [hunk 1]
```diff
@@ -40,6 +40,17 @@ Proof.
   reflexivity.
 Defined. 
 
+(** The connecting map associated to a pointed family. *)
+Definition connecting_map_family {X : pType} (P : pFam X)
+  : loops X ->* [P pt, dpoint P].
```
Comment (jarlg) [inline theories/Pointed/Loops.v:45]: Is this map already defined somewhere? I couldn't find it, which surprised me a bit.

File: theories/Modalities/Modality.v [hunk 2]
```diff
@@ -373,6 +373,19 @@ Global Instance conn_map_to_O {O : Modality} (A : Type)
   : IsConnMap O (to O A)
   := _.
 
+(** When [O1 <= O2], [O_functor O2] preserves [O1]-connected maps. *)
+Proposition conn_map_O_functor_leq {O1 O2 : Modality} (leq : O1 <= O2)
+  {X Y : Type} (f : X -> Y) `{IsConnMap O1 _ _ f}
+  : IsConnMap O1 (O_functor O2 f).
```
Comment (jarlg) [inline theories/Modalities/Modality.v:379]: Is this result already somewhere in `Modalities/`, or a consequence of something more general? I couldn't find anything.

File: theories/Pointed/Loops.v (hunk 1 above)
Comment (jdchristensen) [reply theories/Pointed/Loops.v:45]: `connecting_map` in ExactSequence.v is the analogous thing with the type family replaced by a pointed map from a pointed type.  If it's convenient to use this form of the statement, then it's fine to have both.  But maybe this should move to ExactSequence.v?

File: theories/Homotopy/Hopf.v [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+  refine (transport_hopf_construction _ _
+            @ _ @ (transport_hopf_construction _ _)^).
+  exact (right_identity _ @ (left_identity _)^).
+Defined.
+
+(** It follows from [hopf_retraction] and Freudenthal's theorem that [loop_susp_unit] induces an equivalence on [Pi (2n+1)] for [n]-connected H-spaces (with n >= 0). *)
+Proposition freudenthal_hspace `{Univalence}
+  {n : nat} {X : pType} `{IsConnected n X}
+  `{IsHSpace X} `{forall a, IsEquiv (a *.)}
+  : IsEquiv (fmap (pPi (n + n).+1) (loop_susp_unit X)).
```
Comment (jdchristensen) [inline theories/Homotopy/Hopf.v:59]: Another way to state this is that `loop_susp_unit` is a (2n+1)-equivalence, i.e., it is sent to an equivalence by `Tr (n+n).+1`.  There's lots of material in ReflectiveSubuniverse about such maps --- search for `O_inverts`.  Maybe it's worth having this statement in this more abstract form?  I'm not sure if the connection between being inverted by `Tr k` and inducing an iso on `Pi n` for `n <= k` is in the library.

**Review by jdchristensen — COMMENTED** [review]
Thanks for this!  I've got to run now, but I'll continue looking at it later.

File: theories/Modalities/Modality.v (hunk 2 above)
Comment (mikeshulman) [reply theories/Modalities/Modality.v:379]: I don't see it anywhere.

File: theories/Modalities/Modality.v [hunk 4]
```diff
@@ -373,6 +373,19 @@ Global Instance conn_map_to_O {O : Modality} (A : Type)
...
+Proof.
+  nrapply (cancelR_conn_map _ (to O2 _)).
+  1: rapply conn_map_O_leq.
+  nrapply conn_map_homotopic.
+  1: intro x; symmetry; apply O_rec_beta.
+  rapply conn_map_compose.
+  rapply conn_map_O_leq.
+Defined.
```
Comment (jdchristensen) [inline theories/Modalities/Modality.v:387]: It works for reflective subuniverses if you use the strong order `<<`
```suggestion
Proposition conn_map_O_functor_leq {O1 O2 : ReflectiveSubuniverse} (leq : O1 << O2)
  {X Y : Type} (f : X -> Y) `{IsConnMap O1 _ _ f}
  : IsConnMap O1 (O_functor O2 f).
Proof.
  rapply (cancelR_conn_map _ (to O2 _)).
  nrapply conn_map_homotopic.
  1: symmetry; apply to_O_natural.
  rapply conn_map_compose.
Defined.
```

File: theories/Homotopy/HomotopyGroup.v [hunk 5]
```diff
@@ -290,6 +294,37 @@ Proof.
...
+  rewrite trunc_index_inc'_0n; assumption.
+Defined.
+
+Definition issurj_pi_connmap `{Univalence} (n : nat) {X Y : pType}
+  (f : X ->* Y) {C : IsConnMap n f}
+  : IsConnMap (Tr (-1)) (fmap (pPi n.+1) f).
+Proof.
+  rapply conn_map_O_functor_leq.
+  2: by apply issurj_iterated_loops_connmap.
+  by apply O_leq_Tr_leq.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:312]:
```suggestion
  by apply issurj_iterated_loops_connmap.
```
Adapting to the changes to `conn_map_O_functor_leq`.

File: theories/Homotopy/HomotopyGroup.v [hunk 6]
```diff
@@ -1,4 +1,4 @@
-Require Import Basics Types Pointed.
+Require Import Basics Types Pointed HSet.
 Require Import Modalities.Modality.
 Require Import Truncations.Core.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:3]:
```suggestion
Require Import Truncations.Core Truncations.SeparatedTrunc.
```
Adapting to the changes to `conn_map_O_functor_leq.`

**Review by jdchristensen — COMMENTED** [review]
Thanks for this!  LGTM, once the minor changes are done.

**Comment by jdchristensen** [comment]
@Alizter I forget if I mentioned this earlier, but with this PR, we have basically reproved the `licata_finster` lemma that you formalized, using more general principles instead of the encode-decode argument, and have also generalized it to any truncation level.  A followup PR will do the last bit that's needed.  Do you think we should keep the encode-decode argument as well, or just replace it with the new argument?

The extension to any truncation level implies, for example, that the loop_susp map π_5(S^3 ) → π_6(S^4) is an equivalence (once you have the H-space structure on S^3).

**Comment by Alizter** [comment]
@jdchristensen I think its fine to replace. We always have git history if we want to see it again. The isomorphisms that you get are pretty cool, hopefully once we get a spectral sequence started we can start to use them in computations.

**Comment by jdchristensen** [comment]
@jarlg Do you want me to push a commit with my suggested changes?

**Comment by jarlg** [comment]
Yes, they all look fine to me, so you can go ahead. Thanks!

**Comment by jdchristensen** [comment]
@Alizter Let me know if you still want to look at this before merging.

**Comment by Alizter** [comment]
@jdchristensen I didn't get to read it in full just yet, but I think it is fine to merge. I'll leave comments afterwards if I find anything.
